US07557114B2
a) 3-[1-Dimethylamino-meth-(Z)-ylidene]-4-oxo-pyrrolidine-1-carboxylic acid tert.-butyl ester
A solution of 13.5 mmol N-BOC-3-pyrrolidone and 13.5 mmol N,N-dimethylformamide-dimethylacetal in 50 ml N,N-dimethylformamide was hold overnight at 60° C. The reaction mixture was quenched by addition of 50 ml water and extracted 3 times with ethyl acetate. The extract was dried over magnesium sulfate and concentrated to give the crude title compound as a yellowish oil. Yield=90%. MS (m/e): 241.4 ([M+H]+, 100%).

reactant | N-BOC-3-pyrrolidone | 13.5 mmol | C(=O)(OC(C)(C)C)N1CC(CC1)=O | C9H15NO3
reactant | N,N-dimethylformamide-dimethylacetal | 13.5 mmol | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[1-Dimethylamino-meth-(Z)-ylidene]-4-oxo-pyrrolidine-1-carboxylic acid tert.-butyl ester | Yield=90% | C(C)(C)(C)OC(=O)N1C/C(/C(C1)=O)=C/N(C)C | C12H20N2O3
